US04650810
(i) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1-methyl-1H-indole-5-acetamide
Sodium hydride (80% dispersion in oil) (0.14 g) was added to a solution of 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetamide (1.5 g) in dry dimethylformamide (10 ml). After stirring the red solution for 30 min, methyl iodide (0.41 ml) was added and the mixture was stirred for a further 16 h. Water (40 ml) was added, the solid collected by filtration and crystallised from propan-2-ol to give the title compound as a yellow powder (1.25 g), m.p. 200°-2° C.

reactant | Sodium hydride | 0.14 g | [H-].[Na+]
reactant | 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetamide | 1.5 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CC(=O)N | C20H17N3O3
reactant | methyl iodide | 0.41 ml | CI | CH3I
reactant | Water | 40 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1-methyl-1H-indole-5-acetamide | 1.25 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CN(C2=CC=C(C=C12)CC(=O)N)C | C21H19N3O3
